US06992087B2
Preparation of 5-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine
Following the procedure for the preparation of 4,5,6,7-tetrahydro-1-benzofuran-4-amine but substituting 5-methoxy-3,4-dihydronaphthalen-1(2H)-one and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.19, 7.05, 6.75, 4.00, 3.84, 2.76, 2.61, 1.97, 1.70; 13C NMR (100 MHz, CDCl3) δ 157.44, 142.83, 126.67, 126.02, 120.53, 108.09, 55.72, 49.75, 33.21, 23.57, 19.11; HRMS (FAB) calcd for C11H15NO+H 178.1232, found 178.1233.

reactant | 4,5,6,7-tetrahydro-1-benzofuran-4-amine | O1C=CC2=C1CCCC2N | C8H11NO
reactant | 5-methoxy-3,4-dihydronaphthalen-1(2H)-one | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
product | 5-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine | COC1=C2CCCC(C2=CC=C1)N | C11H15NO
